US06552049B2
2-Allyloxy-4-(benzyloxy)benzaldehyde
A solution of 45.8 g (0.20 mole) 2-hydroxy-4-(benzyloxy)benzaldehyde in 250 mL of dimethylformamide was added dropwise over 1 hour to a slurry of 10.6 g (0.26 mole) of 60% sodium hydride/mineral oil dispersion in 100 mL of dimethylformamide. The mixture was stirred under nitrogen for 1 hour at room temperature, and then 28 mL (0.33 mole) of allyl bromide in 30 mL of dimethylformamide was added. The reaction was heated at 60° C. for 4 hours under nitrogen. The solvent was then removed in vacuum and replaced with 500 mL of ethyl acetate. This solution was washed with 500 mL portions of 2 N aqueous HCl, saturated aqueous sodium bicarbonate and saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum to give 53.6 g (100%) of the title compounds as a pale yellow solid. 1H-NMR (d6-DMSO): singlet 10.2 δ (1H); doublet of doublets 7.65 δ (1H); multiplet 7.40 δ (5H); doublet 6.80 δ (1H); doublet of doublets 6.75 δ (1H); multiplet 6.05 δ (1H); doublet of doublets 5.45 δ (1H); doublet of doublets 5.30 δ (1H); singlet 5.20 δ (2H); multiplet 4.70 δ (2H).

reactant | 2-hydroxy-4-(benzyloxy)benzaldehyde | 0.20 mole, 45.8 g | OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C14H12O3
reactant | sodium hydride | 0.26 mole, 10.6 g | [H-].[Na+]
reactant | allyl bromide | 0.33 mole, 28 mL | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-Allyloxy-4-(benzyloxy)benzaldehyde | 53.6 g, 100% | C(C=C)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C17H16O3
